US04419357
A suspension of 2.73 g of 2-amino-5-chloro-N-(1H-tetrazol-5-yl)benzamide in 9 ml of triethoxymethane was refluxed for 4.5 hours to give 6-chloro-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone melting at about 241° C. (dec).

reactant | 2-amino-5-chloro-N-(1H-tetrazol-5-yl)benzamide | 2.73 g | NC1=C(C(=O)NC2=NN=NN2)C=C(C=C1)Cl | C8H7ClN6O
reactant | triethoxymethane | 9 ml | C(C)OC(OCC)OCC | C7H16O3
product | 6-chloro-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone | ClC=1C=C2C(N(C=NC2=CC1)C1=NN=NN1)=O | C9H5ClN6O
